US07790727B2
The compound was prepared by analogy to the methods described for Preparation Example 2 and Example 1 from 4-{5-[(3-difluoromethoxybenzenesulfonyl)-amino]-2-methoxy-phenyl}-piperazine-1-carboxylic acid tert-butyl ester, which was reacted with sodium hydride and 1-bromopropane to yield 4-{5-[(3-difluoromethoxy-benzenesulfonyl)-propylamino]-2-methoxy-phenyl}-piperazine-1-carboxylic acid tert-butyl ester, which was deprotected to yield the title compound.

reactant | 4-{5-[(3-difluoromethoxybenzenesulfonyl)-amino]-2-methoxy-phenyl}-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=CC(=C1)NS(=O)(=O)C1=CC(=CC=C1)OC(F)F)OC | C23H29F2N3O6S
reactant | sodium hydride | [H-].[Na+]
reactant | 1-bromopropane | BrCCC | C3H7Br
product | 4-{5-[(3-difluoromethoxy-benzenesulfonyl)-propylamino]-2-methoxy-phenyl}-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=CC(=C1)N(CCC)S(=O)(=O)C1=CC(=CC=C1)OC(F)F)OC | C26H35F2N3O6S
